US07141586B2
tert-Butyl 4-aminocyclohexylcarbamate (4:1 cis:trans mix of isomers, 1.00 g, 4.67 mmol), 3-hydroxy-2,2-dimethylpropanoic acid (0.60 g, 5.13 mmol) and triethylamine (1.30 ml, 9.33 mmol) were dissolved in dimethylformamide (20 ml) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (984 mg, 5.13 mmol) and 1-hydroxybenzotriazole (694 mg, 5.13 mmol) were added. The reaction was stirred under nitrogen at room temperature for 18 h then partitioned between water and ethyl acetate. The organic phase was washed with water, dried over MgSO4 and the solvent was removed under reduced pressure. The residue was purified by flash column chromatography on silica gel eluting using dichloromethane:methanol:0.880ammonia (95:5:0.5) as eluant to give tert-butyl 4-[(3-hydroxy-2,2-dimethylpropanoyl)amino]cyclohexylcarbamate (840 mg) as a white foam as a ca. 4:1 mixture of diastereoisomers.

reactant | tert-Butyl 4-aminocyclohexylcarbamate | 4.67 mmol, 1.00 g | NC1CCC(CC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | 3-hydroxy-2,2-dimethylpropanoic acid | 5.13 mmol, 0.60 g | OCC(C(=O)O)(C)C | C5H10O3
reactant | triethylamine | 9.33 mmol, 1.30 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.13 mmol, 984 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 5.13 mmol, 694 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | tert-butyl 4-[(3-hydroxy-2,2-dimethylpropanoyl)amino]cyclohexylcarbamate | 840 mg | OCC(C(=O)NC1CCC(CC1)NC(OC(C)(C)C)=O)(C)C | C16H30N2O4
